US08212045B2
To a solution of 2-ethylpyridin-3-yl acetate (5.1 g, 31 mmol) in ethanol (50 mL) was added 3M LiOH (50 mL, 150 mmol). The reaction mixture stirred at ambient temperature for 30 minutes. The mixture was concentrated to dryness and purified over silica gel (10% MeOH in CH2Cl2) to afford 2-ethylpyridin-3-ol (2.5 g, 20 mmol).

reactant | 2-ethylpyridin-3-yl acetate | 31 mmol, 5.1 g | C(C)(=O)OC=1C(=NC=CC1)CC | C9H11NO2
reactant | LiOH | 150 mmol, 3M, 50 mL | [Li+].[OH-]
solvent | ethanol | 50 mL | C(C)O | C2H6O
product | 2-ethylpyridin-3-ol | 20 mmol, 2.5 g | C(C)C1=NC=CC=C1O | C7H9NO
